US05852019
(1) 1-(3-Nitrophenyl)piperazine
50 ml of a solution of 5 g of 3-nitroaniline and 6.46 g of bis(2-chloroethyl)amine hydrochloride in 1-butanol was heated under reflux for 25 hours. After adding 3.84 g of sodium carbonate, the mixture was further heated under reflux for 60 hours. After allowing to cool, the insoluble matters were collected by filtration, suspended in an aqueous solution of sodium hydroxide and extracted with chloroform. The extract was successively washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (chloroform:methanol=100:3). Thus 4.03 g of the title compound was obtained in the form of a red oily product.

reactant | 3-nitroaniline | 5 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | bis(2-chloroethyl)amine hydrochloride | 6.46 g | Cl.ClCCNCCCl
reactant | sodium carbonate | 3.84 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | C(CCC)O | C4H10O
product | 1-(3-Nitrophenyl)piperazine | 4.03 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1 | C10H13N3O2
